US09126969B2
20.9 g of 4-fluoro-5-(4-methylperhydro-1,4-diazepin-1-yl)-2-nitrophenylamine in solution in 750 mL of methanol are hydrogenated under 1 bar of hydrogen pressure in the presence of 2 g of palladium-on-charcoal at 25° C. for 16 hours. The reaction crude is filtered through celite and the filtrate is concentrated under vacuum in a rotary evaporator. 19.1 g of 4-fluoro-5-(4-methylperhydro-1,4-diazepin-1-yl)benzene-1,2-diamine in the form of a black oil are isolated. 1H NMR (300 MHz, DMSO-d6, δ in ppm): 1.82 (m, 2H); 2.26 (s, 3H); 2.56 (m, 4H); 3.11 (m, 4H); 4.19 (broad m, 4H); from 6.22 to 6.31 (m, 2H). EI m/z=238: M+. (base peak)—m/z=223: (M-CH3)+—m/z=168: (M−C4H8N)+—m/z=70: C4H8N+—m/z=57: C3H7N+.

reactant | 4-fluoro-5-(4-methylperhydro-1,4-diazepin-1-yl)-2-nitrophenylamine | 20.9 g | FC1=CC(=C(C=C1N1CCN(CCC1)C)N)[N+](=O)[O-] | C12H17FN4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 750 mL | CO | CH4O
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
product | 4-fluoro-5-(4-methylperhydro-1,4-diazepin-1-yl)benzene-1,2-diamine | 19.1 g | FC=1C=C(C(=CC1N1CCN(CCC1)C)N)N | C12H19FN4
